US09193720B2
The 1.6 mL of benzo[d][1,3,2]dioxaborole (416 mg, 3.47 mmol) was added to a nitrogen purged solution of isopropyl 2-(5-bromo-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate (950 mg, 1.93 mmol) and 0.6 mL of (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole (160 mg, 0.58 mmol) in toluene (20 mL) at −60° C. and allowed to warm to −15° C. before being placed in the freezer overnight. The reaction was quenched with 1M Na2CO3 (5 mL), diluted with EtOAc, and stirred for 20 min. The organic layer was washed with brine and dried (MgSO4). The crude product was filtered, and charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (5-60% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(5-bromo-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate 550 mg (58%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 5.98/5.87 (s, 1H), 4.95-4.92 (m, 1H), 3.75-3.71 (m, 1H), 3.08-3.01 (m, 3H), 2.88-2.86 (m, 1H), 2.54 (s, 3H), 2.39 (s, 3H), 2.06-2.00 (m, 3H), 1.90-1.83 (m, 2H), 1.27 (d, J=6.6 Hz, 6H), 1.14 (d, J=5.9 Hz, 3H), 1.08 (d, J=5.9 Hz, 3H). UPLC (M+H)=497.2.

reactant | benzo[d][1,3,2]dioxaborole | 3.47 mmol, 1.6 mL, 416 mg | O1BOC2=C1C=CC=C2 | C6H5BO2
reactant | isopropyl 2-(5-bromo-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 1.93 mmol, 950 mg | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)C1=NC(=NO1)C(C)C | C22H29BrN4O4
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 0.58 mmol, 0.6 mL, 160 mg | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-isopropyl 2-(5-bromo-4-(4-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 550 mg, 58% | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CCC(CC1)C1=NC(=NO1)C(C)C | C22H31BrN4O4
